US07727985B2
4-amino-6-chloro β-carboline (1.05 g, 4.82 mmol, 1 equiv.) was dissolved in 4 ml of anhydrous pyridine and 20 ml of THF and cooled to 0° C. under N2. Trifluoroacetic anhydride (3.4 ml, 24 mmol, 5 equiv.) was added drop-wise to the cooled solution. Upon complete addition, the reaction was removed from the ice bath and stirred at room temperature for ˜1.5 hours. The reaction was quenched by the slow addition of water (10 ml) and extracted 2×150 ml EtOAc, washed 2×100 ml saturated aqueous sodium bicarbonate, 1×100 ml brine, dried over MgSO4, filtered and concentrated to orange solids. These solids were titurated by in 10-15 ml Et2O and captured by filtration to give 1.23 g (81%) of N-(6-chloro-9H-β-carbolin-4-yl)-2,2,2-trifluoro-acetamide as a yellow solid.

reactant | 4-amino-6-chloro β-carboline | 4.82 mmol, 1.05 g, 1 equiv. | NC1=CN=CC=2NC3=CC=C(C=C3C12)Cl | C11H8ClN3
reactant | THF | 20 ml | C1CCOC1 | C4H8O
reactant | Trifluoroacetic anhydride | 24 mmol, 3.4 ml, 5 equiv. | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | N-(6-chloro-9H-β-carbolin-4-yl)-2,2,2-trifluoro-acetamide | 1.23 g, 81% | ClC=1C=C2C=3C(=CN=CC3NC2=CC1)NC(C(F)(F)F)=O | C13H7ClF3N3O
